US04559078
10 g (0.58 mole) of 2-nitrophenylsulfonamide are suspended in 20 ml of toluene and heated to reflux temperature. 17.0 g (0.087 mole) of diisopropyl aminomethylphosphonate are added dropwise to the hot solution. The reaction mixture is then boiled under reflux for 10 hours, cooled and evaporated. Chromatographing the residue over silica gel with a 4:1 methyl acetate/hexane mixture gives 1.6 g of 2-(di-i-propoxyphosphonylmethylamino)-phenylsulfonamide in the form of a yellow oil.

reactant | 2-nitrophenylsulfonamide | 0.58 mole, 10 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N | C6H6N2O4S
reactant | diisopropyl aminomethylphosphonate | 0.087 mole, 17.0 g | NCP(OC(C)C)(OC(C)C)=O | C7H18NO3P
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | methyl acetate hexane | C(C)(=O)OC.CCCCCC | InChI=1S/C6H14.C3H6O2/c1-3-5-6-4-2;1-3(4)5-2/h3-6H2,1-2H3;1-2H3
